US05866612
1-Amino-4-(1-imino-2-fluoroethylamino)but-2-ynedihydrobromide was made from 1-azido-4-(butoxycarbonylamino)but-2-yne and S-benzyl-2-fluorothioacetimidate hydrobromide to yield 1-butoxycarbonylamino-4-(1-imino-2-fluoro-ethylamino) but-2-yne hydrobromide as an intermediate.

reactant | 1-Amino-4-(1-imino-2-fluoroethylamino)but-2-ynedihydrobromide | Br.Br.NCC#CCNC(CF)=N
reactant | 1-azido-4-(butoxycarbonylamino)but-2-yne | N(=[N+]=[N-])CC#CCNC(=O)OCCCC | C9H14N4O2
reactant | S-benzyl-2-fluorothioacetimidate hydrobromide | Br.C(C1=CC=CC=C1)SC(CF)=N
product | 1-butoxycarbonylamino-4-(1-imino-2-fluoro-ethylamino) but-2-yne hydrobromide | Br.C(CCC)OC(=O)NCC#CCNC(CF)=N | InChI=1S/C11H18FN3O2.BrH/c1-2-3-8-17-11(16)15-7-5-4-6-14-10(13)9-12;/h2-3,6-9H2,1H3,(H2,13,14)(H,15,16);1H
